US07371743B2
(f) (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(1H-tetrazol-5-yl)-propylamine
2.10 g (4.45 mmol) (1S)-N-(benzyloxycarbonyl)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(1H-tetrazol-5-yl)-propylamine in 30 ml dichloromethane are combined with 1.9 ml (13.4 mmol) iodo-trimethylsilane and stirred for 16 hours at ambient temperature. Then 20 ml of methanol are added, the mixture is stirred for a further 30 minutes at ambient temperature and the reaction mixture is evaporated down completely i. vac. The residue is purified by chromatography on silica gel (eluting gradient: dichloromethane/(ethanol/conc. ammonia 95:5)=70/30->60:40).

reactant | (1S)-N-(benzyloxycarbonyl)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(1H-tetrazol-5-yl)-propylamine | 4.45 mmol, 2.10 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC1=NN=NN1)C1=NC2=C(N1)C=CC(=C2)Cl | C19H18ClN7O2
reactant | iodo-trimethylsilane | 13.4 mmol, 1.9 ml | I[Si](C)(C)C | C3H9ISi
reactant | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(1H-tetrazol-5-yl)-propylamine | ClC1=CC2=C(NC(=N2)[C@H](CCC2=NN=NN2)N)C=C1 | C11H12ClN7
